US05385912
To a solution of 8 g (0.51 mole) of methyl 4-oxocyclohexane-1-carboxylate in 50 ml of dry benzene is added 4 g (0.064 mole) of ethylene glycol and 0.10 g of p-toluenesulfonic acid and this mixture is refluxed overnight with a Dean-Stark apparatus. The cooled reaction is allowed to stand and the bottom layer (ethylene glycol) separated and the remaining benzene layer washed with aqueous sodium bicarbonate, dried over MgSO4, and stripped to dryness, giving methyl 1,4-dioxaspiro[4,5]decane-8-carboxylate as a clear liquid residue. This material is used without further purification in the next step.

reactant | methyl 4-oxocyclohexane-1-carboxylate | 0.51 mole, 8 g | O=C1CCC(CC1)C(=O)OC | C8H12O3
reactant | ethylene glycol | 0.064 mole, 4 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | methyl 1,4-dioxaspiro[4,5]decane-8-carboxylate | O1CCOC12CCC(CC2)C(=O)OC | C10H16O4
